US07435837B2
(±)-[(N-methyl-1-[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.59 g, 53%) following the general procedure of Example 154 as a white solid, hydrochloride salt from (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine (0.200 g, 0.826 mmol) and 3-chlorophenylboronic acid (0.194 g, 1.24 mmol). mp 177-178° C.

reactant | (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine | 0.826 mmol, 0.200 g | BrC1=CC=CC=2CC(OC21)CNC | C10H12BrNO
reactant | 3-chlorophenylboronic acid | 1.24 mmol, 0.194 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | N-methyl-1-[7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)Cl | C16H16ClNO
